US07612075B2
Calcium chloride (16.63 g, 149.8 mmol) is added to a stirring suspension of sodium borohydride (11.33 g, 299.6 mmol) in ethanol (300 mL) at −40° C. The heterogeneous mixture is warmed to −20° C. and stirred for 1 h. (S)-2-Benzyloxycarbonylamino-3-methoxy-propionic acid methyl ester (20 g, 74.9 mmol) in abs EtOH (250 mL) is then added via cannula transfer. The heterogeneous mixture is stirred at −20° C. for 3 h. The reaction is quenched with water (400 mL) and carefully acidified with 1.0 M HCl. The aqueous layer is extracted with CH2Cl2 (4×200 mL) and the combined organic phases are washed with brine (200 mL), dried over anhydrous Na2SO4 and concentrated to afford a colorless oil. The mixture is absorbed onto the silica gel and chromatographed on silica gel (hexane:EtOAc, 4:1>2:1>1:1>1:2) to afford 11.5 g (64%) of (R)-(1-hydroxymethyl-2-methoxy-ethyl)-carbamic acid benzyl ester as a colorless oil.

reactant | Calcium chloride | 149.8 mmol, 16.63 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 299.6 mmol, 11.33 g | [BH4-].[Na+]
reactant | (S)-2-Benzyloxycarbonylamino-3-methoxy-propionic acid methyl ester | 74.9 mmol, 20 g | COC([C@H](COC)NC(=O)OCC1=CC=CC=C1)=O | C13H17NO5
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | EtOH | 250 mL | CCO | C2H6O
product | (R)-(1-hydroxymethyl-2-methoxy-ethyl)-carbamic acid benzyl ester | 11.5 g, 64% | C(C1=CC=CC=C1)OC(N[C@@H](COC)CO)=O | C12H17NO4
